US04529604
A mixture of 10.4 g. (0.0483 mole) of 2-chloro-3,4-dimethoxyphenethylamine and 20 ml. (20.2 g., 0.155 mole) of propionic anhydride was heated on the steam bath for two hours with stirring. The reaction mixture was poured into dilute sodium hydroxide solution, stirred at room temperature and extracted with ether. The ether extract was washed with dilute hydrochloric acid and water, dried and evaporated to give N-(2-chloro-3,4-dimethoxyphenethyl)propionamide.

reactant | 2-chloro-3,4-dimethoxyphenethylamine | 0.0483 mole | ClC1=C(CCN)C=CC(=C1OC)OC | C10H14ClNO2
reactant | propionic anhydride | 0.155 mole, 20.2 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(2-chloro-3,4-dimethoxyphenethyl)propionamide | ClC1=C(CCNC(CC)=O)C=CC(=C1OC)OC | C13H18ClNO3
